US07291631B2
To a stirred solution of ethyl 2-methyl nicotinate (1.04 g, 6.30 mmol) in dry THF (30 mL) was slowly added EtMgBr (3.0 M in Et2O, 5.2 mL, 16 mmol). The mixture was warmed to reflux and stirred for 60 h under N2. The suspension was cooled, poured into ice (50 mL) and stirred for 3 h. The layers were separated, and the aqueous layer was extracted with Et2O (5×100 mL). The combined organic layers were dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (1:1 Et2O/CH2Cl2), affording 3-(2-methyl-pyridin-3-yl)-pentan-3-ol as a yellow solid (0.447 g, 40%). 1H NMR (CDCl3) δ 0.77 (t, 6H, J=7.5 Hz), 1.80-2.12 (m, 4H), 2.70 (s, 3H), 7.12 (dd, 1H, J=4.8, 7.8 Hz), 7.87 (dd, 1H, J=7.8, 1.5 Hz), 8.39 (dd, 1H, J=4.8, 1.5 Hz).

reactant | ethyl 2-methyl nicotinate | 6.30 mmol, 1.04 g | CCOC(=O)C1=C(N=CC=C1)C | C9H11NO2
reactant | EtMgBr | 16 mmol, 3.0 M, 5.2 mL | CC[Mg+].[Br-]
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(2-methyl-pyridin-3-yl)-pentan-3-ol | 0.447 g, 40% | CC1=NC=CC=C1C(CC)(CC)O | C11H17NO
